US08937150B2
4,4′-(1-(4-tert-butylphenyl)pyrrolidine-2,5-diyl)bis(N1-(4-methoxybenzyl)benzene-1,2-diamine)
4,4′-(1-(4-tert-Butylphenyl)pyrrolidine-2,5-diyl)bis(N-(4-methoxybenzyl)-2-nitroaniline) (2 g, 2.79 mmol) was dissolved in a mixture of THF (15 mL), ethanol (15 mL), and ethyl acetate (5 mL). Then platinum oxide (0.254 g, 1.12 mmol) was added as a THF slurry. The flask was evacuated and purged with nitrogen twice, then evacuated and opened to a hydrogen balloon. The mixture was stirred at room temperature for 20 hours, then filtered through diatomaceous earth, concentrated, and purified by chromatography on silica gel with an 80 g column, eluting with 0-40% ethyl acetate/dichloromethane to give the first peak of trans product (0.508 g, 28%).

reactant | 4,4′-(1-(4-tert-Butylphenyl)pyrrolidine-2,5-diyl)bis(N-(4-methoxybenzyl)-2-nitroaniline) | 2.79 mmol, 2 g | C(C)(C)(C)C1=CC=C(C=C1)N1C(CCC1C1=CC(=C(NCC2=CC=C(C=C2)OC)C=C1)[N+](=O)[O-])C1=CC(=C(NCC2=CC=C(C=C2)OC)C=C1)[N+](=O)[O-] | C42H45N5O6
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | 1.12 mmol, 0.254 g | [Pt]=O
product | 4,4′-(1-(4-tert-butylphenyl)pyrrolidine-2,5-diyl)bis(N1-(4-methoxybenzyl)benzene-1,2-diamine) | 0.508 g, 28% | C(C)(C)(C)C1=CC=C(C=C1)N1C(CCC1C=1C=C(C(=CC1)NCC1=CC=C(C=C1)OC)N)C=1C=C(C(=CC1)NCC1=CC=C(C=C1)OC)N | C42H49N5O2
